US06875781B2
To a solution of 4-amino-2,6-dichloropyridine (1.0 g, 6.1 mmol), 5-chloro-2-methoxy-phenylboronic acid (1.4 g, 7.3 mmol) and palladium acetate (137 mg, 0.61 mmol) in ethylene glycol dimethyl ether (50 ml), degassed with argon, was added a solution of cesium fluoride (3.8 g, 24.4 mmol) in water (10 ml) followed by triphenylphosphine (320 mg, 1.22 mmol). After stirring at 85° C. for 12 hours, the mixture was filtered through a pad of celite under suction. The filtrate was dried over sodium sulfate and purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (1:4 followed by 2:5) to provide 2-chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl-amine (720 mg, 44% yield). 1H NMR (acetone-d6) δ 3.91 (s, 3H, CH3), 5.92 (s, 2H, NH2), 6.60 (d, 1H, J=1.8 Hz, Ar), 7.14 (d, 1H, J=8.8 Hz, Ar), 7.33 (d, 1H, J=1.9 Hz, Ar), 7.37 (dd, 1H, J=8.8 Hz, J=2.8 Hz, Ar), 7.90 (d, 1H, J=2.8 Hz, Ar).

reactant | 4-amino-2,6-dichloropyridine | 6.1 mmol, 1.0 g | NC1=CC(=NC(=C1)Cl)Cl | C5H4Cl2N2
reactant | 5-chloro-2-methoxy-phenylboronic acid | 7.3 mmol, 1.4 g | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
reactant | cesium fluoride | 24.4 mmol, 3.8 g | [F-].[Cs+]
reactant | triphenylphosphine | 1.22 mmol, 320 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethylene glycol dimethyl ether | 50 ml | COCCOC | C4H10O2
solvent | water | 10 ml | O | H2O
catalyst | palladium acetate | 0.61 mmol, 137 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl-amine | 720 mg, 44% yield | ClC1=NC(=CC(=C1)N)C1=C(C=CC(=C1)Cl)OC | C12H10Cl2N2O
